US07939540B2
Alternative Method for Synthesis of 3-(2-chloro-6,7-dimethoxy-quinazolin-4-yl)phenylamine (Production Example 1)
To 634 g of sodium carbonate (5.98 mol) was added 2.91 kg of water under a nitrogen atmosphere, followed by stirring for dissolution. To the solution were added 3.0 L of tetrahydrofuran, 431 g of 3-aminophenyl boronic acid monohydrate (2.78 mol), 30.4 g of triphenylphosphine (0.116 mol) and 26.0 g of dichloropalladium (0.116 mol) in this order. To the mixture was dropwise added a solution of 2,4-dichloro-6,7-dimethoxyquinazoline (600 g; 2.32 mol) in tetrahydrofuran (12.0 L) over 2 hours while stirring at 60° C., followed by stirring at the same temperature for 16 hours. To the mixture were added 3.0 kg of a 5% sodium chloride solution and 12.0 L of tetrahydrofuran in this order, and the mixture was stirred at 50° C. for 1 hour and allowed to cool down to 25° C. The mixture was filtered through celite to remove the insoluble matter, and the filtrate was transferred to separatory funnel and the organic layer was separated. To the separated organic layer were added 150 g of anhydrous magnesium sulfate and 60.0 g of activated carbon, and the mixture was stirred at 50° C. for 1 hour and allowed to cool down to 25° C. The mixture was filtered through celite to remove the insoluble matter, and the filtrate was concentrated under reduced pressure. To the residue was added 6.0 L of water, and the mixture was stirred at room temperature for 1 hour, and precipitated crystals were collected by filtration. The collected crystals were dried at 50° C. under reduced pressure to yield 730 g of a product of interest. Yield: 62.1%

reactant | sodium carbonate | 5.98 mol, 634 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-aminophenyl boronic acid monohydrate | 2.78 mol, 431 g | O.NC=1C=C(C=CC1)B(O)O
reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 2.32 mol, 600 g | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 12.0 L | O1CCCC1 | C4H8O
catalyst | dichloropalladium | 0.116 mol, 26.0 g | Cl[Pd]Cl
catalyst | triphenylphosphine | 0.116 mol, 30.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 12.0 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 L | O1CCCC1 | C4H8O
solvent | water | 2.91 kg | O | H2O
product | 3-(2-chloro-6,7-dimethoxy-quinazolin-4-yl)phenylamine | 730 g, Yield: 62.1% | ClC1=NC2=CC(=C(C=C2C(=N1)C=1C=C(C=CC1)N)OC)OC | C16H14ClN3O2
